US05631286
26c. 2-Aminocarbonyl-4-cyano4-(3-cyclopropylmethoxy-4-methoxyphenyl)-1-(methoxymethyloxy)cyclohex-1-ene
A mixture of 2-carboxy-4-cyano-4-(3-cyclopropylmethoxy-4-methoxyphenyl)-1-(methoxymethyloxy)cyclohex-1-ene (0.26 g, 0.67 mmol), N-methyl morpholine (0.09 ml, 0.8 mmol) and isobutyl chloroformate (0.1 mL, 0.77 mmol) in dry 1,2-dimethoxyethane (7 mL) was stirred under an argon atmosphere at room temperature for 10 min. Ammonium hydroxide (0.07 mL, 1.0 mmol) was added and stirring was continued for 0.5 h. The mixture was partitioned between methylene chloride and 5% aqueous sodium carbonate, was extracted three times, the organic layer was dried (potassium carbonate) and the solvent was removed in vacuo to provide a white solid (0.22 g, 85%): m.p. 120°-122° C.

reactant | 2-carboxy-4-cyano-4-(3-cyclopropylmethoxy-4-methoxyphenyl)-1-(methoxymethyloxy)cyclohex-1-ene | 0.67 mmol, 0.26 g | C(=O)(O)C1=C(CCC(C1)(C1=CC(=C(C=C1)OC)OCC1CC1)C#N)OCOC | C21H25NO6
reactant | N-methyl morpholine | 0.8 mmol, 0.09 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.77 mmol, 0.1 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | Ammonium hydroxide | 1.0 mmol, 0.07 mL | [OH-].[NH4+]
solvent | 1,2-dimethoxyethane | 7 mL | COCCOC | C4H10O2
product | 2-Aminocarbonyl-4-cyano4-(3-cyclopropylmethoxy-4-methoxyphenyl)-1-(methoxymethyloxy)cyclohex-1-ene | 0.22 g, 85% | NC(=O)C1=C(CCC(C1)(C1=CC(=C(C=C1)OC)OCC1CC1)C#N)OCOC | C21H26N2O5
